US08071581B2
Compound 159: Dimethyl-{3-[3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-ylmethyl]-[1,2,4]triazolo[4,3-b]pyridazin-6-yl}-amine
To a 5 ml microwave vial 1 ml of dimethylamine 40% in water was added followed by 300μ of DMSO to dissolve 25 mg (0.067 mmol) 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)quinoline. The reaction heated in a microwave for 2000 seconds at 130° C. The reaction mixture was filtered then purified via preparatory HPLC to return the title compound (7.7 mg, 30% yield). Analytical data is presented in Table 2.

reactant | dimethylamine | 1 ml | CNC | C2H7N
reactant | DMSO | CS(=O)C | C2H6OS
reactant | 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)quinoline | 0.067 mmol, 25 mg | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)C | C19H14ClN7
solvent | water | O | H2O
product | Dimethyl-{3-[3-(1-methyl-1H-pyrazol-4-yl)-quinolin-6-ylmethyl]-[1,2,4]triazolo[4,3-b]pyridazin-6-yl}-amine | 7.7 mg, 30% yield | CN(C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)C)C | C21H20N8
